* C:\git-checkouts\ads-bee\ltspice\tracking_comparator.asc
R1 N002 N004 1k
D1 N001 N004 1N5819
R2 N002 N001 100k
C1 N002 0 100p
V1 N003 0 PULSE(0 0.1 0 10n 200n 0.5u 1u)
R3 N006 N001 10k
C2 N006 0 10p
V2 3v3 0 3.3
XU2 N006 N002 3v3 0 N005 level2 Avol=100Meg GBW=100Meg Slew=1G Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N001 N003 10k
.model D D
.lib C:\Users\jkail\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 20u 0 10n
.SUBCKT MCP6566 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6566/6R/6U/7/9
*
*
* Revision History:
*      REV A: 14-Mar-11, Created model
*      REV B: 09-Apr-11, Fixed output voltage swing
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*      Can disable Hysteresis for faster response in large circuits by adding comments
*      in front of statements flagged below
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Input Stage
V10  3 10 -450M
R10 10 11 690K
R11 10 12 690K
G10 10 11 10 11 144U
G11 10 12 10 12 144U
C11 11 12 576E-18
C12  1  0 4.00P
*E12 71 14 POLY(6) 20 0 21 0 22 0 23 0 26 0 27 0   2.1M 86.2K 86.2K 86.2K 86.2K 1 1
E12 71 14 POLY(7) 20 0 21 0 22 0 23 0 26 0 27 0 111 0
+ 1.5M 55 55 15 15 1 1 -.5M
* LINE ABOVE FOR HYSTERESIS, LINE BELOW FOR NO HYSTERESIS
*+ 1.5M 55 55 15 15 1 1 0
G12 1 0 62 0 1m
G13 1 2 63 0 1u
M12 11 14 15 15 NMI
M14 12 2 15 15 NMI
G14 2 0 62 0 1m
C14  2  0 4.00P
I15 15 4 50.0U
V16 16 4 -250M
GD16 16 1 TABLE {V(16,1)} ((-100,-100E-15)(0,0)(1m,1u)(2m,1m))
V13 3 13 -250M
GD13 2 13 TABLE {V(2,13)} ((-100,-100E-15)(0,0)(1m,1u)(2m,1m))
R71  1  0 10.0E12
R72  2  0 10.0E12
R73  1  2 10.0E12
*C13  1  2 1.00E-15
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -316U -316U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0  -2.75M 158U 158U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
G31 0 31 3 4 18.5
I31 0 31 DC -4.17
R31 31  0 1 TC=0.00,0.00
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 18.5
I32 32 0 DC -4.17
R32 32  0 1 TC=0.00,0.00
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 1.00
R34  34 0 1K
C34  34 0 353N
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 15.9E-15
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 15.9N
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(2.00,1n))(2.2,1))
G36 33 0 TABLE {V(35,4)} ((-2.2,-1)((-2.00,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 10.0
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0 0 37.5M 50.0M 100M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 0.00 1 -100K
E56 56  0 POLY(2) 4 0 52 0 1.36M 1 -17.8M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 POLY(1) 51 0  -50.0U 1M
G54  0  4 POLY(1) 52 0  -50.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-1.00M,2.20U
G97 0 98 TABLE { V(96,5) } ((-11.0,-6.5M)(-1.00M,-6.43M)(0,0)(1.00M,6.43M)(11.0,6.5M))
*E97 99 0 VALUE { V(98)*((V(3)-V(4))*2.39 + -3.30)}
E97 99 0 VALUE { V(98)*LIMIT(((V(3)-V(4))*2.39 + -3.30),0.00,1E6)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.36M,-625N
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)}
+ ((0,0)(800M,930N)(1.8,88.0U)(2.00,89.0U)
+ (3.00,90.0U)(5.00,94.0U)(6.00,97.0U))
*
* Temperature Sensitive offset voltage
I73 0 70 DC 1uA
*R74 0 70 1 TC=2.00
R74 0 70 1 TC=0.00
E75 1 71 70 0 1
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  9.47302M
*
* Temp Sensistive Offset IBias
I63 0 63 DC 1uA
R63 0 63 250M TC=473M,5.03M
*
* Hysteresis
G110 0 110 POLY(2) 3 0 4 0  10.1 -100M 100M
R110 110 0 1 TC=1.8M,0
*E111 111 0 VALUE { V(110) * SGN(V(57) }
* LINE ABOVE CAUSED CONVERGENCE ERROR, USE TWO LINES BELOW INSTEAD
E111 111 0 VALUE { V(110) * V(112) }
E112 112 0 TABLE {V(120,0)} ((-1,1)(-1m,0.99)(1m,-0.99)(1,-1))
C120  120 0  1u
G120 0 120 TABLE {V(57,4)} ((-1m,-1)(1m,1))
R120 0 120 1
C121 121 120 2p
C122 122 120 2p
V121 121 0 1
V122 122 0 -1
* Node 120 above is output of FF.  Can substitute with node 57 for
* direct input from output state.
*
* Hyst FF Node 120 is output of FF
*X_U113 0 0 113 114 120 115 $G_DPWR $G_DGND DFFRSH
*E114 114 0 TABLE {V(57,0)}((-1,-1n)(1m,0)(2m,4)(1,4.01))
*R113 0 115 1k
*E113 113 0 TABLE {V(57,0)}((-1,4.01)(-2m,4)(-1m,1n)(0,0))
*
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=50.0P AF=1
.MODEL REXP  RES TCE= 4.41236
.ENDS MCP6566
.lib UniversalOpAmp2.lib
.backanno
.end
